US04157399
3-(4-acetylpiperazino)-2-phenyl-benzo(b)thiophene.
6.15 g (60 mmole) of acetic anhydride are mixed with a solution of 11.8 g (40 mmole) of 3-piperazino-2-phenyl-benzo(b)thiophene in 50 milliliters of methylene chloride and left for 2 hours at ambient temperature. After washing with dilute ammonia the organic phase is dried over Na2SO4 and evaporated: 13.2 g (98% of theory) of colourless needles, mp 167°-169° (CCl4).

reactant | acetic anhydride | 60 mmole, 6.15 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-piperazino-2-phenyl-benzo(b)thiophene | 40 mmole, 11.8 g | N1(CCNCC1)C=1C2=C(SC1C1=CC=CC=C1)C=CC=C2 | C18H18N2S
solvent | methylene chloride | 50 milliliters | C(Cl)Cl | CH2Cl2
product | 3-(4-acetylpiperazino)-2-phenyl-benzo(b)thiophene | C(C)(=O)N1CCN(CC1)C=1C2=C(SC1C1=CC=CC=C1)C=CC=C2 | C20H20N2OS
